US08859596B2
Tetrahydrothiophene-3-methanol 1,1-dioxide
To a solution of tetrahydrothiophene-3-carboxylic acid 1,1-dioxide (Enamine, 1 g, 6.1 mmol) in THF (20 mL) at −10° C. was added 4-methylmorpholine (0.67 mL, 6.1 mmol). The mixture was stirred for 1 min then ethyl chloroformate (0.58 mL, 6.1 mmol) was added dropwise. This mixture was stirred at −10° C. for 15 min then was filtered through Celite and the filtrated was added dropwise via syringe to a mixture of NaBH4 (0.52 g, 13.7 mmol) in water (10 mL) at 5° C. The ice-bath was removed after the addition was complete and the mixture was stirred at ambient temperature for 2 h. The mixture was quenched with saturated, aqueous NH4Cl (10 mL) and diluted with EtOAc (10 mL). The layers were separated and the aqueous layer was extracted with EtOAc (3×5 mL). The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to give the title compound (0.22 g) which was used without further purification. MS (DCI/NH3) m/z 168 (M+NH4)+.

reactant | tetrahydrothiophene-3-carboxylic acid 1,1-dioxide | 6.1 mmol, 1 g | S1(CC(CC1)C(=O)O)(=O)=O | C5H8O4S
reactant | 4-methylmorpholine | 6.1 mmol, 0.67 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 6.1 mmol, 0.58 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaBH4 | 13.7 mmol, 0.52 g | [BH4-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | Tetrahydrothiophene-3-methanol 1,1-dioxide | 0.22 g | S1(CC(CC1)CO)(=O)=O | C5H10O3S
